US07098222B2
2-[5-Methyl-1-(6-methyl-4-trifluoromethyl-pyridin-2-yl)-1H-pyrazol-4-yl]-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline
The title compound was prepared using the procedure described in Example 1G using 1-[5-methyl-1-(6-methyl-4-trifluoromethyl-pyridin-2-yl)-1H-pyrazol-4-yl]-ethanone (Maybridge Chemical Company Ltd., catalog number CD 11385) for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.15 (d, J=6.10 Hz, 3H), 1.49 (m, 1H), 1.79 (m, 2H), 1.96 (m, 1H), 2.27 (m, 1H), 2.43 (m, 2H), 2.68 (s, 3H), 3.05 (m, 2H), 3.11 (s, 3H), 3.15 (m, 1H), 3.32 (m, 1H), 7.30 (s, 1H), 7.61 (m, 3H), 8.01 (s, 1H), 8.03 (d, J=8.48 Hz, 1H), 8.12 (d, J=8.14 Hz, 1H), 8.14 (s, 1H); MS (DCI-NH3) [M+H]+ at 480.

reactant | 1-[5-methyl-1-(6-methyl-4-trifluoromethyl-pyridin-2-yl)-1H-pyrazol-4-yl]-ethanone | CC1=C(C=NN1C1=NC(=CC(=C1)C(F)(F)F)C)C(C)=O | C13H12F3N3O
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 2-[5-Methyl-1-(6-methyl-4-trifluoromethyl-pyridin-2-yl)-1H-pyrazol-4-yl]-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline | CC1=C(C=NN1C1=NC(=CC(=C1)C(F)(F)F)C)C1=NC2=CC=C(C=C2C=C1)CCN1[C@@H](CCC1)C | C27H28F3N5
